US06150407
To a Parr shaker bottle containing a suspension of methyl 3,5-di-nitro-4-(4-methoxyphenoxy)-benzoate (20.2 g; 77.5 mmol) in glacial acetic acid (80 mL) was added 10% palladium on charcoal (0.7 g). The bottle was shaken under an atmosphere of hydrogen (3 atm) until no more hydrogen was consumed. The catalyst was filtered off and the resulting solution concentrated to approximately 10 mL. The residue was dissolved in acetone (50 mL) and heated on a steam bath while water (100 mL) was added in portions. Upon cooling, medium brown needles formed which were collected by suction filtration and dried to give 7.1 g (86%) of methyl 3,5-diamino-4-(4-methoxyphenoxy)benzoate. 300 MHz 1H NMR (CDCl3) d 3.73 (s, 3H, OCH3), 3.80 (bs, 4H, ArNH2) 3.86 (s, 3H, OCH3), 6.84 (m, 4H, ArH), 6.91 (s, 2H, ArH).

reactant | methyl 3,5-di-nitro-4-(4-methoxyphenoxy)-benzoate | 77.5 mmol, 20.2 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1OC1=CC=C(C=C1)OC)[N+](=O)[O-] | C15H12N2O8
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 0.7 g | [Pd] | Pd
product | methyl 3,5-diamino-4-(4-methoxyphenoxy)benzoate | 7.1 g, 86% | NC=1C=C(C(=O)OC)C=C(C1OC1=CC=C(C=C1)OC)N | C15H16N2O4
